US06159990
In a round bottom flask containing 200 mL of MeOH was added pellets of potassium hydroxide (23.0 g, 410.0 mmol). The solution was cooled to 0° C. and 1-(3,4-difluorophenyl)-2-hydroxy-propan-1-one (7.0 g, 41.2 mmol) in 10 mL MeOH was added dropwise. The solution was stirred for 10 min and then iodobenzene diacetate (22.5 g, 70 mmol) was added in two portions. The solution first became orange and then turned yellow. It was stirred overnight at room temperature and then solvent was removed in vacuo. The residue was dissolved in water and was extracted with ethyl acetate (3×100 mL). The combined organic extracts were washed with brine and then dried over Na2SO4. After filteration, the solvent was removed in vacuo to get 1-(3,4-difluorophenyl)-2-hydroxy-propan-1-one dimethyl acetal as a yellow viscous oil (crude wt.=9.2 g). It was dissoled in 150 mL of acetone and 10 drops of concentrated sulfuric acid were added. After stirring for 3 h, TLC analysis indicated that the reaction was complete. Acetone was removed in vacuo and after basification with saturated NaHCO3, the residue was extracted in EtOAc and was washed with brine. The organic layer was separated, dried over Na2SO4 and then filtered. The solvent was removed in vacuo and the residue was purified by silica gel chromatography (Rf=0.4, 3:2 hexane/EtOAc) to obtain 1-(3,4-difluorophenyl)-2-hydroxy-propan-1-one as a pale yellow oil (3.3 g, 51% yield over two steps).

reactant | potassium hydroxide | 410.0 mmol, 23.0 g | [OH-].[K+]
reactant | 1-(3,4-difluorophenyl)-2-hydroxy-propan-1-one | 41.2 mmol, 7.0 g | FC=1C=C(C=CC1F)C(C(C)O)=O | C9H8F2O2
reactant | iodobenzene diacetate | 70 mmol, 22.5 g | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
solvent | MeOH | 10 mL | CO | CH4O
solvent | MeOH | 200 mL | CO | CH4O
product | 1-(3,4-difluorophenyl)-2-hydroxy-propan-1-one dimethyl acetal | COC(C(C)O)(C1=CC(=C(C=C1)F)F)OC | C11H14F2O3
